US07094801B2
4-[3E-(5-Benzo[b]thiophen-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-benzamide
To a solution of 4-acetyl-benzamide (0.3 g, 1.84 mmol) and 5-(benzo[b]thein-2yl)-2,4-dimethoxybenzaldehyde (0.55 g, 1.84 mmol) in a mixture of N,N-dimethylformamide (7 mL) and methanol (3 mL) was added lithium methoxide (0.14 g, 3.68 mmol). The reaction mixture was allowed to stir at ambient temperature for 9 hours. The resulting precipitate was collected by filtration, washed with methanol, dried in vacuo to obtain the title compound as a yellow solid (5.56 g, 68%). Alternatively, to mixture of 4-[3E-(5-benzo[b]thiophen-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-benzoic acid (Ex-3, 3.0 g, 6.75 mmol), 1-(3-dimethylaminopropyl)3-ethylcarbodiimide hydrochloride (1.81 g, 9.45 mmol), 1-hydroxybenzotriazole hydrate (1.09 g, 8.10 mmol) and ammonium chloride (1.81 g, 33.7 mmol) in N,N-dimethylformamide (60 mL) was added triethylamine (2.4 mL, 16.9 mmol). The reaction mixture was allowed to stir overnight at ambient temperature. Any insoluble material was removed by filtration. The filtrate was diluted with ethyl acetate to 180 mL. The solution of ethyl acetate was washed with a saturated solution of sodium bicarbonate, brine, dried over sodium sulfate and concentrated to give the title compound as a yellow solid (2.82 g, 94%), mp 240–241° C. 1H-NMR (DMSO-d6) δ 8.37 (s, 1H), 8.19 (d, J=7.8 Hz, 2H), 8.12 (d, J=15.3 Hz, 1H), 8.04–7.91 (m, 6H), 7.83 (d, J=7.5 Hz, 1H), 7.55 (s, 1H), 7.36–7.30 (m, 2H), 6.87 (s, 1H), 4.04 (s, 3H), 4.01 (s, 3H). MS m/z=444 ([M+H]+, 100%).

reactant | 4-[3E-(5-benzo[b]thiophen-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-benzoic acid | 6.75 mmol, 3.0 g | S1C2=C(C=C1C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)OC)OC)C=CC=C2 | C26H20O5S
reactant | 1-(3-dimethylaminopropyl)3-ethylcarbodiimide hydrochloride | 9.45 mmol, 1.81 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 8.10 mmol, 1.09 g | O.ON1N=NC2=C1C=CC=C2
reactant | ammonium chloride | 33.7 mmol, 1.81 g | [Cl-].[NH4+]
reactant | triethylamine | 16.9 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 4-[3E-(5-Benzo[b]thiophen-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-benzamide | 2.82 g, 94% | S1C2=C(C=C1C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C(=O)N)C=C1)OC)OC)C=CC=C2 | C26H21NO4S
